US05891882
Methyl 7-amino-2-(3-furyl)thieno[2,3-b]pyrazine-6-carboxylate
A solution of the methyl 7-amino-2-chloro-thieno[2,3-b]pyrazine-6-carboxylate prepared as described in Example 10C (0.300 g, 1.23 mmol), β-furanboronic acid (0.207 g, 1.85 mmol) were dissolved in 12 mL of anhydrous DMF. To this solution was added triethylamine (0.26 mL, 1.85 mMol, 1.5 equiv.), DPPP (153 mg, 0.37 mmol, 0.3 equiv.) and Pd(OAc)2 (83 mg, 0.37 mMol, 0.3 equiv.), followed by heating to 90° C. for 2 h. The solvent was evaporated and the resulting residue was chromatograghed (SiO2, 3:1 Hexanes/Ethyl Acetate) yielding the product as a light yellow solid (93 mg): 1H NMR (300 MHz, CDCl3) δ 7.02 (m, 1H), 7.57 (t, J=3.0 Hz, 1H), 8.15 (m, 1H), 8.83 (s, 1H).

reactant | methyl 7-amino-2-chloro-thieno[2,3-b]pyrazine-6-carboxylate | NC1=C(SC2=NC=C(N=C21)Cl)C(=O)OC | C8H6ClN3O2S
reactant | triethylamine | 1.85 mMol, 0.26 mL, 1.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | DPPP | 0.37 mmol, 153 mg, 0.3 equiv. | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.37 mMol, 83 mg, 0.3 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Methyl 7-amino-2-(3-furyl)thieno[2,3-b]pyrazine-6-carboxylate | 93 mg | NC1=C(SC2=NC=C(N=C21)C2=COC=C2)C(=O)OC | C12H9N3O3S
